US06150412
5-(2,6-DIFORMYL-3-HYDROXY-4-METHOXYPHENYL)PENTANOIC ACID
5-(3-Hydroxy-4-methoxyphenyl)pentanoic acid (8 g) and hexamethylenetetramine (10 g) in acetic acid (150 ml) were heated under reflux over night. 70 ml 6 M Hydrochloric acid was added to the reaction mixture and it was refluxed for half an hour. The mixture was poured into water and extracted with dichloromethane. The organic phase was evaporated in vacuo and the residue triturated with diethyl ether. Yield 3.04 g.

reactant | 5-(3-Hydroxy-4-methoxyphenyl)pentanoic acid | 8 g | OC=1C=C(C=CC1OC)CCCCC(=O)O | C12H16O4
reactant | hexamethylenetetramine | 10 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Hydrochloric acid | 6 M, 70 ml | Cl | ClH
reactant | water | O | H2O
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-(2,6-DIFORMYL-3-HYDROXY-4-METHOXYPHENYL)PENTANOIC ACID | C(=O)C1=C(C(=CC(=C1O)OC)C=O)CCCCC(=O)O | C14H16O6
